US04032640
2-(6-Chloro-9,10-dihydro-4H-benzo[4,5]cyclohepta[1,2-b]thiophene-4-ylimino)hexahydroazepine
5 ml of 98% ethanol and 10.0 g of caprolactim 0-methyl ether are added to 8.0 g of 4-amino-6-chloro-9,10-dihydro-4H-benzo[4,5]cyclohepta[1,2-b]thiophene hydrochloride and are allowed to stand at room temperature while shaking occasionally. A few drops of ether are added to the resulting clear solution after 12 hours, whereupon the hydrochloride of the title compound crystallizes. M.Pt. decomp. from 185°, (recrystallized once from ethanol/ether).

reactant | caprolactim 0-methyl ether | 10.0 g | COC1=NCCCCC1 | C7H13NO
reactant | 4-amino-6-chloro-9,10-dihydro-4H-benzo[4,5]cyclohepta[1,2-b]thiophene hydrochloride | 8.0 g | Cl.NC1C2=C(CCC=3SC=CC31)C=CC(=C2)Cl
reactant | hydrochloride | Cl | ClH
catalyst | ether | A few drops | CCOCC | C4H10O
solvent | ethanol | 5 ml | C(C)O | C2H6O
product | 2-(6-Chloro-9,10-dihydro-4H-benzo[4,5]cyclohepta[1,2-b]thiophene-4-ylimino)hexahydroazepine | ClC=1C=CC2=C(C(C3=C(SC=C3)CC2)N=C2NCCCCC2)C1 | C19H21ClN2S
